US05721347
A solution of 0.05 mole of methyl-(4-trifluoromethyl-3-indolyl) acetate and 0.01 mole of sodium in 60 ml. anhydrous benzyl alcohol is slowly fractioned over a period of 41/2 hours through a Vigreux column to remove methanol. The excess benzyl alcohol is removed by distillation at 60° and 2.5 mm. to give a residue of crude benzyl-(4-trifluoromethyl-3-indolyl) acetate.

reactant | methyl-(4-trifluoromethyl-3-indolyl) acetate | 0.05 mole | C(C)(=O)OC1=C(NC2=CC=CC(=C12)C(F)(F)F)C | C12H10F3NO2
reactant | sodium | 0.01 mole | [Na] | Na
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | benzyl-(4-trifluoromethyl-3-indolyl) acetate | C(C)(=O)OC1=C(NC2=CC=CC(=C12)C(F)(F)F)CC1=CC=CC=C1 | C18H14F3NO2
